US07220862B2
2-Trimethylsilanyl-ethanesulfonyl chloride
Sulfuryl chloride (43 ml, 539 mmol) was added in 3 min to a clear solution of triphenylphosphine (129 g, 490 mmol) in methylene chloride (200 mL) at 0° C. in a flame-dried three-neck round bottom flask. After stirring at 0° C. for 5 min, the ice-water bath was removed and sodium 2-trimethylsilylethanesulfonate (50 g, 245 mmol) was added in portions over 10 min. The resulting white suspension was stirred at room temperature for 16 h, then it was filtered through a pad of celite. The filtrate was concentrated to ca 50 mL, ethyl acetate/hexanes (1:3, 1000 mL) and celite (40 g) were added. The mixture was stirred at room temperature for 15 min and filtered through a pad of celite. Solvents were removed in vacuo and the residue was loaded onto a pre-wetted column with silica gel (300 mL) using 1:3 ethyl acetate/hexanes as the eluent. Solvents were removed and the title compound was obtained as a light tan liquid (41.9 g, 85%). If not used immediately, the final product should be stored under nitrogen in the freezer or refrigerator to minimize decomposition. 1H-NMR (CDCl3, 500 MHz) δ 3.61–3.57 (m, 2H), 1.32–1.27 (m, 2H), 0.10 (s, 9H).

reactant | Sulfuryl chloride | 539 mmol, 43 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | triphenylphosphine | 490 mmol, 129 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-trimethylsilylethanesulfonate | 245 mmol, 50 g | C[Si](CCS(=O)(=O)[O-])(C)C.[Na+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Trimethylsilanyl-ethanesulfonyl chloride | C[Si](CCS(=O)(=O)Cl)(C)C | C5H13ClO2SSi
